US04622334
2.96 g (0.05 mol) of powdered potassium hydroxide and 3 ml of water are added to a solution of 11.0 g (0.05 mol) of 1-(5-methyl-1,3-dioxan-5-yl)-2-(1,2,4-triazol-1-yl)-ethan-1-one in 40 ml of dimethylsulphoxide, with stirring. After 10 minutes, 9.6 g (0.05 mol) of bromomethylcyclohexane (90% pure) are added and the mixture is stirred at 50° C. for 6 hours. For working up, the cooled reaction mixture is poured onto 500 ml of water and extracted twice with 200 ml of diethyl ether each time, the combined ether extracts are washed twice with 100 ml of water each time and dried over sodium sulphate and the solvent is removed in vacuo. The oily residue crystallizes from methylene chloride/diethyl ether. 8.0 g (52.1 g of theory) of 3-cyclohexyl-1-(5-methyl-1,3-dioxan-5-yl)-2-(1,2,4-triazol-1-yl)-propan-1-one of melting point 68°-71 ° C. are obtained.

reactant | potassium hydroxide | 0.05 mol, 2.96 g | [OH-].[K+]
reactant | water | 3 ml | O | H2O
reactant | 1-(5-methyl-1,3-dioxan-5-yl)-2-(1,2,4-triazol-1-yl)-ethan-1-one | 0.05 mol, 11.0 g | CC1(COCOC1)C(CN1N=CN=C1)=O | C9H13N3O3
reactant | bromomethylcyclohexane | 0.05 mol, 9.6 g | BrCC1CCCCC1 | C7H13Br
reactant | water | 500 ml | O | H2O
solvent | dimethylsulphoxide | 40 ml | CS(=O)C | C2H6OS
product | 3-cyclohexyl-1-(5-methyl-1,3-dioxan-5-yl)-2-(1,2,4-triazol-1-yl)-propan-1-one | 8.0 g | C1(CCCCC1)CC(C(=O)C1(COCOC1)C)N1N=CN=C1 | C16H25N3O3
